US08748613B2
(R)-Quinuclidin-3-yl 2-phenyl-2-(pyrrolidin-1-yl)acetate (51 mg, 0.16 mmol) was dissolved in ethyl acetate (1.6 ml) and 2-chloro-1-phenylethanone (25.1 mg, 0.16 mmol) was added. The solution was stirred at room temperature for 3.5 days. The suspension was evaporated and the residue was purified by flash chromatography (DCM/MeOH=9/1 to 85/15) to obtain (3R)-1-(2-oxo-2-phenylethyl)-3-(2-phenyl-2-(pyrrolidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride (44 mg, 57.8% yield) as a yellow vitreous solid.

reactant | (R)-Quinuclidin-3-yl 2-phenyl-2-(pyrrolidin-1-yl)acetate | 0.16 mmol, 51 mg | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCC2 | C19H26N2O2
reactant | 2-chloro-1-phenylethanone | 0.16 mmol, 25.1 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | ethyl acetate | 1.6 ml | C(C)(=O)OCC | C4H8O2
product | (3R)-1-(2-oxo-2-phenylethyl)-3-(2-phenyl-2-(pyrrolidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride | 44 mg, 57.8% yield | [Cl-].O=C(C[N+]12C[C@@H](C(CC1)CC2)OC(C(N2CCCC2)C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C27H33N2O3.ClH/c30-24(21-9-3-1-4-10-21)19-29-17-13-22(14-18-29)25(20-29)32-27(31)26(28-15-7-8-16-28)23-11-5-2-6-12-23;/h1-6,9-12,22,25-26H,7-8,13-20H2;1H/q+1;/p-1/t22?,25-,26?,29?;/m0./s1
